Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
BPH
 
Major Surgical or Invasive Procedure:
bipolar TURP

 
History of Present Illness:
___ with congenital solitary kidney and BPH/LUTS/recurrent UTIs 

 
Past Medical History:
PMH: OSA, hard of hearing, solitary kidney, HLD, HTN, 
bronchitis, arthritis/gout, diabetes borderline HgbA1c 6.3, 
GERD, hypothyroid, tonsillectomy, torn rotator cuff repair, TURP 
___ 

 
Social History:
___
Family History:
___
 
Physical Exam:
AVSS
nad
no resp distress
abd soft nontender
no CVAT
 
Brief Hospital Course:
pt was admitted to urology service after undergoing above 
procedure.  see op note for details.  His urine remained pink 
and CBI was continued on POD1 but he otherwise was ambulating, 
with good pain control, tolerating regular diet.  On POD2 he had 
a successful voiding trial and was dc'd in stable condition to 
f/u with Dr. ___ as an outpatient.  He was given a 3d course of 
cipro to take home.
 
Medications on Admission:
atorvastatin, flomax, synthroid
 
Discharge Medications:
1. atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. oxycodone 5 mg Tablet Sig: 0.5 Tablet PO Q6H (every 6 hours) 
as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
3. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).  
4. levothyroxine 25 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day) as needed for constipation.
Disp:*60 Capsule(s)* Refills:*1*
6. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 3 days.
Disp:*6 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
BPH

 
Discharge Condition:
condition - stable
mental status - alert & oriented x3, no acute distress
ambulatory status - independent

 
Discharge Instructions:
-No vigorous physical activity for 2 weeks. 

 

-Expect to see occasional blood in your urine and to experience 
urgency and frequecy over the next month. 

 

-You may shower and bathe normally. 

 

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4.  
Replace Tylenol with narcotic pain medication.  Max daily 
Tylenol dose is 4gm, note that narcotic pain medication also 
contains Tylenol (acetaminophen)

 

-Do not drive or drink alcohol while taking narcotics

 

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops.

 

-Resume all of your home medications

 
Followup Instructions:
___